US05071994
Synthesis of 5-phenyl-(4-ethoxycarbonyl-2-nitrophenyl)-4-isoxazolin-3-one
After mixing 200 g of ethyl 4-chloro-3-nitrobenzoate, 500 ml of dimethyl sulfoxide, 169 g of 5-phenylisoxazole, and 146 g of potassium carbonate, the reaction was performed for 5 hours at 60° C. After the reaction was over, the reaction mixture was cooled and poured into water. Crystals thus deposited were recovered by filtration, washed with water, and dried to provide 292 g of the above-described compound with a yield of 94.6%. The melting point thereof was 142° C. to 143° C.

reactant | ethyl 4-chloro-3-nitrobenzoate | 200 g | ClC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8ClNO4
reactant | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
reactant | 5-phenylisoxazole | 169 g | C1(=CC=CC=C1)C1=CC=NO1 | C9H7NO
reactant | potassium carbonate | 146 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-phenyl-(4-ethoxycarbonyl-2-nitrophenyl)-4-isoxazolin-3-one | 292 g, yield of 94.6% | C1(=CC=CC=C1)C1=CC(N(O1)C1=C(C=C(C=C1)C(=O)OCC)[N+](=O)[O-])=O | C18H14N2O6
